US07176242B2
Methyl 3-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl]methyl}-5-methylbenzoate
To an ice-cold, stirred solution of methyl 3-(hydroxymethyl)-5-methylbenzoate (200 mg, 1.1 mmol) in methylene chloride (2.2 mL) is added triethylamine (0.304 mL, 2.2 mmol) followed by methanesulfonyl chloride (0.116 mL, 1.5 mmol). The reaction mixture is stirred for 15 min and filtered. (S)-(+)-2-(Methoxymethyl)pyrrolidine (380 mg, 3.3 mmol) is added to the filtrate, and the reaction mixtire is stirred at room temperature for 5 h. The reaction mixture is diluted with methylene chloride (10 mL), washed with 1 N hydrochloric acid, and saturated sodium bicarbonate, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 15% ethyl acetate/hexanes) provides the title compound. 1H NMR (300 MHz, CDCl3) δ 7.77 (s, 1H), 7.73 (s, 1H), 7.37 (s, 1H), 4.12 (d, J=17 Hz, 1H), 3.90 (s, 3H), 3.85 (m, 2H), 3.51 (m, 2H), 3.44 (m, 2H), 3.15 (s, 1H), 2.38 (s, 3H), 1.94 (m, 3H), 1.72 (m, 3H).

reactant | methyl 3-(hydroxymethyl)-5-methylbenzoate | 1.1 mmol, 200 mg | OCC=1C=C(C(=O)OC)C=C(C1)C | C10H12O3
reactant | triethylamine | 2.2 mmol, 0.304 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.5 mmol, 0.116 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (S)-(+)-2-(Methoxymethyl)pyrrolidine | 3.3 mmol, 380 mg | COC[C@H]1NCCC1 | C6H13NO
solvent | methylene chloride | 2.2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl]methyl}-5-methylbenzoate | COC[C@H]1N(CCC1)CC=1C=C(C(=O)OC)C=C(C1)C | C16H23NO3
